US07888349B2
Trifluoroacetic acid (10 mL of a 10% solution in dichloromethane) was added to tert-butyl 6-amino-3-benzyloxy-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate (0.550 g, 1.23 mmol), and the reaction was stirred at ambient temperature overnight. The solvent was removed under reduced pressure, and the residue was treated with hydrogen chloride (4 N in 1,4-dioxane). The solvent was removed under reduced pressure, and the residue was dissolved in methanol. Ammonia gas was bubbled through the resulting solution for 15 minutes, and then the solvent was removed under reduced pressure. The residue was dried overnight under vacuum to provide 3-benzyloxy-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine in a crude mixture, which was used in the next step without purification.

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 6-amino-3-benzyloxy-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 1.23 mmol, 0.550 g | NC1=NC2=CC(=CC=C2C2=C1N=C1N2CCN(C1)C(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C25H27N5O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-benzyloxy-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3CCNC1 | C20H19N5O
